US04474754
This reaction mixture was added to a solution consisting of 5 ml of a dimethylformamide solution containing 25 mg of Peptide B, i.e., H-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH, and 2 ml of hexamethylphosphoric triamide then the whole mixture was stirred at 4° C. for 20 hours. Further, an azide product of 44 mg of Z-Tyr-Ser-Asp-Leu-Pro-Gln-NHNHBoc was added to the reaction mixture and was stirred for 24 hours. The solvent was removed by distillation and the residue thus obtained was extracted with a mixture of butanol-water then crystallized from ether and the crystals were collected by filtration. Thus obtained Z-Tyr-Ser-Asp-Leu-Pro-Gln-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH was dissolved in 30 ml of methanol and was catalytically reduced by using palladium as the catalyst. The catalyst was removed by filtration and methanol was also removed by distillation, then the residue was purified by using Sephdex G-25 (eluting solvent: 50%-acetic acid) and by using LH-20 (eluting solvent: 1/1000N-hydrochloric acid) to obtain 18 mg of H-Tyr-Ser-Asp-Leu-Pro-Gln-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH. Hereinafter this product is referred to as [Peptide D].

reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | H-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH | N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C72H127N25O20
reactant | azide | [N-]=[N+]=[N-]
reactant | Z-Tyr-Ser-Asp-Leu-Pro-Gln-NHNHBoc | 44 mg | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C45H63N9O15
solvent | hexamethylphosphoric triamide | 2 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | H-Tyr-Ser-Asp-Leu-Pro-Gln-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH | 18 mg | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC2=CNC=N2)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)CCC1 | C104H172N32O31
